US07838543B2
Step 1. 2-Methyl-biphenyl-4-carboxylic Acid Methyl Ester
A solution of 4-bromo-3-methyl-benzoic acid methyl ester (1.0 g, 4.36 mmol) and phenylboronic acid (0.64 g, 5.24 mmol) in n-PrOH (15 mL) is treated with 2 M Na2CO3 (4.4 mL), and purged with N2 for 10 min, and Pd(PPb3)4 (25 mg, 0.22 mmol) is then added. The reaction is refluxed overnight. Organic solvent is removed in vacuo, the residue is extracted with CH2Cl2 (30 mL), washed with 10% Na2CO3 (30 mL), H2O (30 mL); dried with Na2SO4 and concentrated. Purification of the crude material by chromatography affords the title compound (0.10 g, 10%).

reactant | 4-bromo-3-methyl-benzoic acid methyl ester | 4.36 mmol, 1.0 g | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | phenylboronic acid | 5.24 mmol, 0.64 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2 M, 4.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-PrOH | 15 mL | C(CC)O | C3H8O
product | 2-Methyl-biphenyl-4-carboxylic Acid Methyl Ester | 0.10 g, 10% | COC(=O)C1=CC(=C(C=C1)C1=CC=CC=C1)C | C15H14O2
